US08563541B2
Intermediate C-1: 2-chloro-N,N-diethylnicotinamide
Into a 1-neck round-bottom flask under an atmosphere of nitrogen was dissolved 2-chloronicotinoyl chloride (2.12 g, 0.0120 mol) in methylene chloride (25 mL) and the reaction cooled to 0° C. N-ethylethanamine (2.7 mL, 0.026 mol) was added to the mixture and stirred at 0° C. for 2 hours and then at 20° C. for 16 hours. The reaction was extracted with dichloromethane and the organic extracts were washed with water, brine, dried (MgSO4), and concentrated in vacuo. The crude product was used in the next reaction without further purification. 1H NMR (400 MHz, CDCl3): δ 8.42-8.44 (m, 1H), 7.64-7.65 (m, 1H), 7.29-7.63 (m, 1H), 3.75-3.79 (m, 1H), 3.35-3.40 (m, 1H), 3.13-3.22 (m, 2H), 1.82 (t, 3H), 1.088 (t, 3H). MS: [M+1]=213.

reactant | 2-chloronicotinoyl chloride | 0.0120 mol, 2.12 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | N-ethylethanamine | 0.026 mol, 2.7 mL | C(C)NCC | C4H11N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-N,N-diethylnicotinamide | ClC1=C(C(=O)N(CC)CC)C=CC=N1 | C10H13ClN2O
